US07173129B2
4-[3E-(2,4-Dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]-N-(3-imidazol-1-ylpropyl)benzenesulfonamide
A solution 4-acetyl-N-(3-imidazol-1-ylpropyl)benzenesulfonamide (Ex-23A, 653 mg, 2.13 mmol) and 2,4-dimethoxy-5-pyrrolidin-1-yl-benzaldehyde (Ex-38B, 500 mg, 2.13 mmol) in DMF (9.3 mL) and MeOH (4.0 mL) was treated with lithium methoxide (162 mg, 4.26 mmol) and stirred for 20 h at room temperature under nitrogen atmosphere. The reaction mixture was quenched with water (75 mL) and extracted ethyl acetate (3×50 mL). The organic phase was brined, dried over sodium sulfate, and concentrated to a red solid. Crystallization from hot ethanol (10 mL) and water (12 mL) gave 461 mg (41%) of the title compound as a red solid, mp 140–143° C. 1H-NMR (300 MHz, DMSO-d6) 8.23 (d, 2H, J=8.7 Hz), 8.05 (d, 1H, J=15.3 Hz), 7.88 (d, 2H, J=9.3 Hz), 7.64 (d, 1H, J=15.3 Hz), 7.51 (s, 1H), 7.17 (s, 1H), 7.05 (s, 1H), 6.81 (s, 1H), 6.67 (s, 1H), 3.92 (t, 2H, J=6.9 Hz), 3.86 (s, 6H), 3.15 (m, 4H), 2.68 (t, 2H, J=6.3 Hz), 1.80 (m, 6H). HRMS (ESI) Calcd. for C27H32N4O5S: 525.2172 (M+H)+; Found; 525.2179.

reactant | 4-acetyl-N-(3-imidazol-1-ylpropyl)benzenesulfonamide | 2.13 mmol, 653 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C=NC=C1 | C14H17N3O3S
reactant | 2,4-dimethoxy-5-pyrrolidin-1-yl-benzaldehyde | 2.13 mmol, 500 mg | COC1=C(C=O)C=C(C(=C1)OC)N1CCCC1 | C13H17NO3
reactant | lithium methoxide | 4.26 mmol, 162 mg | C[O-].[Li+]
solvent | DMF | 9.3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 4.0 mL | CO | CH4O
product | 4-[3E-(2,4-Dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]-N-(3-imidazol-1-ylpropyl)benzenesulfonamide | 461 mg, 41% | COC1=C(C=C(C(=C1)OC)N1CCCC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C=NC=C1 | C27H32N4O5S
